US05763437
A solution of (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-3-phtalimido-1H-1,4-benzodiazepin-2-one (1.24 g) in tetrahydrofuran (30 ml) was treated with a solution of hydrazine monohydrate (0.129 g) in tetrahydrofuran (5 ml) under stirring for 3 hours at room temperature and followed at 70° C. for 1 hour. The reaction mixture was allowed to cool to room temperature. The resultant precipitates were filtered off by suction and the filtrate was concentrated in vacuo. The residue was taken up with ethyl acetate and extracted with 1N aqueous hydrochloric acid. The aqueous layer was alkalined with sodium bicarbonate and extracted with chloroform twice. The extracts were dried over sodium sulfate, filtered and concentrated in vacuo to give (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one (0.87 g), which was used in a following reaction step without further purification.

reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-3-phtalimido-1H-1,4-benzodiazepin-2-one | 1.24 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NC=CC=C2C)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C30H21FN4O3
reactant | hydrazine monohydrate | 0.129 g | O.NN
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.87 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC2=NC=CC=C2C)=O | C22H19FN4O
